Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:11].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.81820521747
[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.00149493475
[H:1][C:2]#[C:3][C:4](=[C:5][H:6])[C:9]([H:10])([H:11])[H:12].[O:7][H:8]>>[H:1][C:2]#[C:3]/[C:4](=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-6.27268507173
[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[O:11][H:12]>>[C:3]([H:4])([H:5])=[C:6][O:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2],3.28688107756
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4][H:5],1.85155529565
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:9][C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.87905529701
[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-6.54452451894
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:5]([H:6])=[C:7]([H:8])[O:9][H:10].[H:1][C:2]#[C:3][H:4],2.2750497380400003
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],1.93279625346
[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:3],2.8172333383700003
[H:1][C:2][O:3][C:4][O:6][C:7]=[C:8]([H:9])[H:10].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],-3.8606368822
[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-3.88513549504
[H:1][C:2]=[C:3]([O:4][C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]=[C:3]([O:4][C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1],4.36930576631
[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-2.94122964084
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-4.93059061159
[C:11]([H:12])([H:13])[H:14].[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.04151032517
[C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10],-1.66818080266
[H:1][C:2][C:9]([C:6]([C:4]#[C:3][H:5])([H:7])[H:8])([H:10])[H:11]>>[H:1][C:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-0.8873651245899999
[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[H:5].[O:1][C:2]#[C:3][H:4],4.8042221631
[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([C:10])([H:11])[H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:10][H:8].[C:7]=[C:9]([H:11])[H:12],1.42695896371
[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2],5.456048613150001
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9],1.45253180386
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[O:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],0.348875900921
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])[H:5].[O:1]=[C:2]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],3.4335070959500005
[H:1][O:2][C:3]([H:4])([H:5])/[C:6](=[C:8]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.62757374255
[C:1]#[C:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][C:3][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:4],3.08702403182
[O:1].[O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.85393768963
[C:4](=[C:5]([H:6])[H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])/[C:4]([C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-1.5393807273
[C:1][C:2][O:3].[C:4]([H:5])([H:6])=[C:7]=[O:8]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]=[O:8],1.61606713753
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8].[H:9],4.62774150722
